US06156838
1.0 kg of ε-caprolactam, 1.0 kg of 12-aminododecanoic acid and 200 g of fluoromica (average particle size 8 μm, CEC corresponding to 0.14 mole) was added to 1 kg of water. Into a 30 L volume reactor which was in advance charged with 8 kg of ε-caprolactam were introduced the above-described mixture and 16.1 g (0.14 mole) of 85 wt % phosphoric acid aqueous solution. The temperature and the pressure were then elevated to 260° C. and 5 kg/cm2, respectively. The reaction system was maintained at a temperature of 260° C. and a pressure of 5 kg/cm2 for 2 hours to conduct polymerization while gradually releasing steam, followed by pressure release to atmospheric pressure over a 1 hour period. After standing under conditions of atmospheric pressure and 260° C. for 40 minutes, the reaction mixture was withdrawn in strands, cooled to solidify, and cut to obtain pellets of nylon 6/12 resin composition.

reactant | ε-caprolactam | 1.0 kg | C1(CCCCCN1)=O | C6H11NO
reactant | 12-aminododecanoic acid | 1.0 kg | NCCCCCCCCCCCC(=O)O | C12H25NO2
reactant | ε-caprolactam | 8 kg | C1(CCCCCN1)=O | C6H11NO
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | 1 kg | O | H2O
product | nylon 6/12 | C(CCCCCC(=O)O)CCCCC(=O)O.C(CCCN)CCN | InChI=1S/C12H22O4.C6H16N2/c13-11(14)9-7-5-3-1-2-4-6-8-10-12(15)16;7-5-3-1-2-4-6-8/h1-10H2,(H,13,14)(H,15,16);1-8H2
